US07846960B2
To a solution of 5-(4-methoxy-2-methyl-phenyl)-4-methyl-thiophene-2-carboxylic acid methyl ester (540 mg, 2 mmol) in dichloromethane (30 mL) at 0° C. is added BBr3 in dichloromethane (1N, 5.0 mL) and the mixture is stirred at ambient temperature overnight. The reaction is quenched by addition of methanol and is evaporated. The residue is purified by column chromatography (0-20% EtOAc in hexanes) to give 5-(4-hydroxy-2-methyl-phenyl)-4-methyl-thiophene-2-carboxylic acid methyl ester (420 mg, 82%). 1H NMR (CDCl3): δ 7.62 (s, 1H), 7.10 (d, 1H, J=7.9 Hz), 6.76 (s, 1H), 6.70 (d, 1H, J=7.9 Hz), 4.79 (bs, 1H), 3.88 (s, 3H), 2.15 (s, 3H), 2.02 (s, 3H).

reactant | 5-(4-methoxy-2-methyl-phenyl)-4-methyl-thiophene-2-carboxylic acid methyl ester | 2 mmol, 540 mg | COC(=O)C=1SC(=C(C1)C)C1=C(C=C(C=C1)OC)C | C15H16O3S
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1N, 5.0 mL | ClCCl | CH2Cl2
product | 5-(4-hydroxy-2-methyl-phenyl)-4-methyl-thiophene-2-carboxylic acid methyl ester | 420 mg, 82% | COC(=O)C=1SC(=C(C1)C)C1=C(C=C(C=C1)O)C | C14H14O3S
